US08809363B2
Step 2: (2S)-tert-butoxy[4-(4-chlorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid
To a solution of Methyl (2S)-tert-butoxy[4-(4-chlorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetate (60 mg, 131 μmol) in tetrahydrofuran (2 mL) and methylated spirit (2 mL) was added an aqueous sodium hydroxide solution (1 M, 790 μL, 790 μmol). The resulting solution was stirred at 60° C. for 3 hours. The volatile solvents were removed in vacuo and the residue diluted with water (10 mL). Dichloromethane (20 mL) was added to the mixture, which was then acidified to pH 5 by the addition of 2 M aqueous hydrochloric acid. The organic layer was separated and washed with water (10 mL) and brine (10 mL), dried over MgSO4 and concentrated in vacuo. The residue was recrystallised from 2-propanol and the resulting solid collected by filtration to give the title compound as a white solid, 11.2 mg, in a 19% yield.

reactant | Methyl (2S)-tert-butoxy[4-(4-chlorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetate | 131 μmol, 60 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)Cl | C25H28ClNO3S
reactant | sodium hydroxide | 790 μmol, 1 M, 790 μL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2S)-tert-butoxy[4-(4-chlorophenyl)-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl]acetic acid | 19% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)Cl | C24H26ClNO3S
